US07524840B2
A solution of 2.01 g (0.0075 mole) of (2-amino-4,5-difluorophenyl)-(2-chlorophenyl)-methanone (Xmm), 24 mL of methanol and 2.08 mL of 25% sodium methoxide solution was heated to reflux under an inert atmosphere for 80 minutes. The mixture was then cooled, taken up in ethyl acetate and washed twice with brine. The ethyl acetate extract was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to yield 2.04 g of aminobenzopheneone (2-amino-5-fluoro-4-methoxyphenyl)-(2-chlorophenyl)-methanone (Xa) as a crystalline yellow solid. MH+/Z=280.

reactant | (2-amino-4,5-difluorophenyl)-(2-chlorophenyl)-methanone | 0.0075 mole, 2.01 g | NC1=C(C=C(C(=C1)F)F)C(=O)C1=C(C=CC=C1)Cl | C13H8ClF2NO
reactant | methanol | 24 mL | CO | CH4O
reactant | sodium methoxide | 2.08 mL | C[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-amino-5-fluoro-4-methoxyphenyl)-(2-chlorophenyl)-methanone | 2.04 g | NC1=C(C=C(C(=C1)OC)F)C(=O)C1=C(C=CC=C1)Cl | C14H11ClFNO2
